US08497263B2
To a mixture of 3-hydroxy-1-(4-hydroxymethylphenyl)-4-(4-methoxy-benzoyl)-5-phenyl-1,5-dihydropyrrol-2-one (0.125 g, 0.3 mmol) and acetone (20 mL) was added manganese oxide (IV) (0.625 g, 7.18 mmol). The mixture was stirred at r.t. for 2.5 hr. Manganese oxide (IV) (0.625 g, 7.18 mmol) was added to the mixture, and the mixture was stirred at r.t. for 4.5 hr. The mixture was filtrated by celite, the filtrate was concentrated under reduced pressure to give a crude product of 1-(4-formylphenyl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydropyrrol-2-one. Methanol was added to prepare a 0.1M methanol solution of the crude product.

reactant | 3-hydroxy-1-(4-hydroxymethylphenyl)-4-(4-methoxy-benzoyl)-5-phenyl-1,5-dihydropyrrol-2-one | 0.3 mmol, 0.125 g | OC=1C(N(C(C1C(C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1)C1=CC=C(C=C1)CO)=O | C25H21NO5
catalyst | manganese oxide | 7.18 mmol, 0.625 g | [O-2].[Mn+2]
catalyst | manganese oxide | 7.18 mmol, 0.625 g | [O-2].[Mn+2]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1-(4-formylphenyl)-3-hydroxy-4-(4-methoxybenzoyl)-5-phenyl-1,5-dihydropyrrol-2-one | C(=O)C1=CC=C(C=C1)N1C(C(=C(C1C1=CC=CC=C1)C(C1=CC=C(C=C1)OC)=O)O)=O | C25H19NO5
